US07652015B2
Stir a solution of 2-chloro-4-methyl-5-nitro-pyridine (0.85 mmol, 0.15 g), 2,2-dimethyl-1-piperazin-1-yl-propan-1-one hydrochloride (0.94 mmol, 0.16 g) and triethylamine (2.12 mmol, 0.3 mL) in a sealed tube at 80° C. overnight. Cool down the mixture to room temperature, add CH2Cl2 and wash with saturated aq. sodium chloride. Dry over sodium sulfate, filter, and concentrate under reduced pressure to give 2,2-dimethyl—[4-(4-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-propane-1-one. Subject residue to silica gel chromatography eluting with hexanes/ethyl acetate in a gradient (from 30% up to 60%). MS(ES): m/z=307 [M+H].

reactant | 2-chloro-4-methyl-5-nitro-pyridine | 0.85 mmol, 0.15 g | ClC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5ClN2O2
reactant | 2,2-dimethyl-1-piperazin-1-yl-propan-1-one hydrochloride | 0.94 mmol, 0.16 g | Cl.CC(C(=O)N1CCNCC1)(C)C
reactant | triethylamine | 2.12 mmol, 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl—[4-(4-methyl-5-nitro-pyridin-2-yl)-piperazin-1-yl]-propane-1-one | CC(C(=O)N1CCN(CC1)C1=NC=C(C(=C1)C)[N+](=O)[O-])(C)C | C15H22N4O3
